US05604237
2-Bromo-N-methyl-N-[(4-nitrophenyl)methyl]acetamide
To a solution of bromoacetyl bromide (30 g) in methylene chloride (20 ml) at 0° was added a solution of N-methyl-4-nitrobenzenemethanamine (8.3 g; G. I. Wilson, J. Chem. Soc., 1926, 2461) in methylene chloride (10 ml) and triethylamine (12 ml). The reaction was stirred 5 min. at 0° and then water (20 ml) was added. The methylene chloride layer was dried and evaporated in vacuo. The residue was purified by column chromatography eluting with methylene chloride/methanol (97:3) to give the title compound (15 g) as an oil. NMR includes signals at d 3.1(3H,s,N--CH3); 3.9(2H,s,CH2Br); 4.55(2H,s,Ph--CH2 --N); 7.0-8.3(4H,m,aromatics).

reactant | bromoacetyl bromide | 30 g | BrCC(=O)Br | C2H2Br2O
reactant | N-methyl-4-nitrobenzenemethanamine | 8.3 g | CNCC1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O2
reactant | water | 20 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
product | 2-Bromo-N-methyl-N-[(4-nitrophenyl)methyl]acetamide | 15 g | BrCC(=O)N(CC1=CC=C(C=C1)[N+](=O)[O-])C | C10H11BrN2O3
